US07125865B2
Step 3: Preparation of 6-{[cis-2-(hydroxymethyl)cyclohexyl]oxy}-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole.
To a solution of 6-{[(1S,2S)-2-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclohexyl]oxy}-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole (550 mg, 1.17 mmol), from this Example step 2, in dry THF (17 ml) was added tetrabutylammonium fluoride (1M THF, 1.75 mL, 1.75 mmol) at 0° C. The reaction mixture was stirred at room temperature for two hours. Saturated NaHCO3 was added. The mixture was extracted with ethyl acetate three times and the combined organic layers washed with brine, dried over Na2CO3 and filtered. The solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel using ethyl acetate and hexane (20:80) to give the title compound.

reactant | 6-{[(1S,2S)-2-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclohexyl]oxy}-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | 1.17 mmol, 550 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](CCCC1)OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C24H36F3NO3Si
reactant | tetrabutylammonium fluoride | 1.75 mmol, 1M, 1.75 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 17 ml | C1CCOC1 | C4H8O
product | 6-{[cis-2-(hydroxymethyl)cyclohexyl]oxy}-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | OC[C@@H]1[C@@H](CCCC1)OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C18H22F3NO3
